US04745116
A solution of 3-propionyl-4-hydroxy-5-carboxy-6-ethyl-2-pyrone (7 gm) in concentrated sulphuric acid (14 ml) and water (2 ml) was heated in an oil bath set at 120° C. for 2 hours. The solution was cooled and then poured into ice. The insoluble solid was filtered. The filtrate was extracted with ethyl acetate (3×100 ml). The combined organic layer was dried over magnesium sulphate and evaporated to give a dirty brown solid. The combined solid from the filtration and the extraction was purified by flash column chromatography (Whatman LPS-II silica gel, elution gradient: 40 to 80% ethyl acetate:pet. ether 30-60) to give 4-hydroxy-6-ethyl-2-pyrone, which was further purified by recrystallization from ether. (Yield: 2.7 gm), m.p. 106°-108° C.

reactant | 3-propionyl-4-hydroxy-5-carboxy-6-ethyl-2-pyrone | 7 gm | C(CC)(=O)C=1C(OC(=C(C1O)C(=O)O)CC)=O | C11H12O6
solvent | sulphuric acid | 14 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 2 ml | O | H2O
product | 4-hydroxy-6-ethyl-2-pyrone | OC1=CC(OC(=C1)CC)=O | C7H8O3
